US08877772B2
Preparation of 5′-(3,4,5-trimethoxyphenyl)spiro[cyclopentane-1,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (Compound BP)
To a solution of 5-(3,4,5-trimethoxyphenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-pyrrolo[2,3-b]pyridin-2(3H)-one (Compound BN, 43 mg, 0.10 mmol) in DMF (2 mL) was added cesium carbonate (0.17 g, 0.50 mmol) and 1,4-diiodobutane (13 μL, 0.10 mmol). The resulting solution was stirred for 4 hr at room temperature, after which it was partitioned between EtOAc and H2O. The organic layer was separated, dried over MgSO4, filtered, and concentrated in vacuo. The residue was dissolved in 6 N HCl (10 mL) and MeOH (5 mL), and the resulting mixture was stirred at room temperature overnight, after which it was partitioned between EtOAc and H2O. The organic layer was concentrated in vacuo, and the residue was dissolved in EtOH (2 mL). Potassium acetate (100 mg) was then added, and the reaction was stirred for 2 hr. The resulting solution was purified via preparatory HPLC to give the title compound (18 mg, 51%). 1H NMR (CDCl3, 300 MHz): δ 9.53 (s, 1H), 8.32 (d, J=2.1 Hz, 1H), 7.56 (s, 1H), 6.69 (s, 2H), 3.95 (s, 6H), 3.90 (s, 3H), 2.28 (m, 2H), 2.24 (m, 2H), 1.97 (m, 4H). HPLC retention time: 2.00 minutes; MS ESI (m/z): 355.4 (M+1)+, calc. 354.

reactant | 5-(3,4,5-trimethoxyphenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-pyrrolo[2,3-b]pyridin-2(3H)-one | 0.10 mmol, 43 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)N(C(C2)=O)COCC[Si](C)(C)C | C22H30N2O5Si
reactant | cesium carbonate | 0.50 mmol, 0.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-diiodobutane | 0.10 mmol, 13 μL | ICCCCI | C4H8I2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5′-(3,4,5-trimethoxyphenyl)spiro[cyclopentane-1,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 18 mg, 51% | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)NC(C21CCCC1)=O | C20H22N2O4
